US06992083B2
To a stirred solution of 0.05 ml (1.24 mmol) methanol in 5 ml dioxane and 1 ml N,N-dimethylformamide at room temperature was added 27 mg (0.62 mmol) sodium hydride (55% dispersion in mineral oil), and the mixture heated at 50° C. for 1 hour. 50 mg (0.12 mmol) 2-chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-isonicotinamide was then added, and the mixture heated at 50° C. for 20 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was acidified with 1 N aq. hydrochloric acid and then extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (dichloromethane) followed by trituration in ether afforded 32 mg (65%) 2-methoxymethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-isonicotinamide as a white crystalline solid. ES-MS m/e (%): 398 (M+H+, 100).

reactant | methanol | 1.24 mmol, 0.05 ml | CO | CH4O
reactant | sodium hydride | 0.62 mmol, 27 mg | [H-].[Na+]
reactant | 2-chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-isonicotinamide | 0.12 mmol, 50 mg | ClCC=1C=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C20H20ClN3O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-methoxymethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-isonicotinamide | 32 mg, 65% | COCC=1C=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C21H23N3O5
